Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left distal radius fracture with pinhole laceration over the 
ulnar head
 
Major Surgical or Invasive Procedure:
Open reduction internal fixation of left distal radius fracture 
with pinning of the distal radial ulnar joint and carpal tunnel 
release on ___ with Dr. ___

 
___ of Present Illness:
___ yo M s/p fall from ___ floor onto outstretched left ___.
Immediate pain, swelling, deformity. + open wound ulnar wrist. 
Endorses some thumb/index paresthesias
Denies head/neck injuries, elbow pain. Does endorse some hip
stiffness since the fall.
 
Past Medical History:
Denies
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Alert and oriented x4, no acute distress, resting comfortably in 
bed
Regular respiratory rate, nonlabored
Pulse of regular rate and rhythm

Left upper extremity:
-Short arm splint clean, dry, and intact
- Soft, non-tender arm and forearm compartments where exposed
- Full, painless AROM/PROM of shoulder, elbow, with minimally 
painful passive range of motion of the digits
- EPL/FPL/DIO (index) fire
- SILT axillary/radial/median/ulnar nerve distributions without 
median nerve paresthesias or sensory motor deficits on exam
Fingers warm and well perfused distally with appropriate 
capillary refill

 
Pertinent Results:
___ 07:17AM BLOOD WBC-16.0* RBC-4.73 Hgb-15.4 Hct-44.3 
MCV-94 MCH-32.6* MCHC-34.8 RDW-12.4 RDWSD-42.9 Plt ___
___ 07:17AM BLOOD Neuts-87.1* Lymphs-6.1* Monos-5.8 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-13.92* AbsLymp-0.98* 
AbsMono-0.92* AbsEos-0.01* AbsBaso-0.02
___ 07:17AM BLOOD Plt ___
___ 07:17AM BLOOD ___ PTT-24.6* ___
___ 07:17AM BLOOD Glucose-109* UreaN-18 Creat-1.0 Na-143 
K-4.1 Cl-106 HCO3-22 AnGap-15
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the ___ surgery team. The patient was found to 
have an open comminuted left distal radius fracture with pinhole 
laceration of the ulnar head and was admitted to the ___ 
surgery service. The patient was taken to the operating room on 
___ for open reduction and internal fixation with pinning 
of the distal radial ulnar joint and carpal tunnel release, 
which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization. He demonstrated a mild fever the night of POD0 
to POD1 which responded appropriately to incentive spirometry 
and Tylenol. the patient did not display any stigmata of DVT or 
PE.  The ___ hospital course was otherwise unremarkable.
Splint was clean/dry/intact, and the patient was voiding/moving 
bowels spontaneously at the time of discharge.  The patient will 
remain nonweightbearing to the left upper extremity in a short 
arm splint to remain in place until follow-up.  The patient will 
follow up with Dr. ___ routine. A thorough discussion was 
had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Open left distal radius fracture with pinhole laceration over 
the ulnar head

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ___ EXTREMITY SURGERY:

- You were in the hospital for ___ surgery. It is normal to 
feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
-Nonweightbearing to the left upper extremity and short arm 
splint until follow-up

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Splint must be left on until follow up appointment unless 
otherwise instructed

SPLINT CARE:
- Do NOT get splint wet
- Please remain in the splint until follow-up appointment.  
Again, please keep your splint dry at all times.  If you have 
concerns regarding your splint, please call the clinic at the 
number provided.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever ___ 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE ___ DAYS OF REHAB

 
Followup Instructions:
___